US05300514
1-[6-Chloro-2-benzothiazolyl]-4,5-diphenyl-3-pyrazolidinone [Method O]
The reaction was conducted under a dry nitrogen atmosphere. A suspension of 4,5-diphenyl-3-pyrazolidinone (1.19 g, 5.00 mmol) in 35 mL toluene was treated with 0.40 g NaH (60% in mineral oil; hydride content 0.24 g, 10.0 mmol, 2.00 eq.), and the mixture stirred at 45° C. for 2 hours. 2,6-Dichlorobenzothiazole (1.02 g, 5.00 mmol, 1.00 eq.) was added and stirring continued at 80° C. for 20 hours. After cooling, the reaction mixture was poured onto 30 mL ice-cooled 0.5N HCl, extracted with EtOAc, and the separated organic phase washed twice with brine, dried over Na2SO4, and the solvent evaporated in vacuo. The residue was recrystallized from Et2O:hexane to provide 1.46 g (72%) light tan crystals: mp 170.5°-2.5° C.

reactant | 4,5-diphenyl-3-pyrazolidinone | 5.00 mmol, 1.19 g | C1(=CC=CC=C1)C1C(NNC1C1=CC=CC=C1)=O | C15H14N2O
reactant | NaH | 10.0 mmol, 0.40 g, 2.00 eq. | [H-].[Na+]
reactant | 2,6-Dichlorobenzothiazole | 5.00 mmol, 1.02 g, 1.00 eq. | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | HCl | 0.5N | Cl | ClH
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[6-Chloro-2-benzothiazolyl]-4,5-diphenyl-3-pyrazolidinone | ClC1=CC2=C(N=C(S2)N2NC(C(C2C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C22H16ClN3OS
